US07053089B2
N2-[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyrimidine-2,4-diamine
EXAMPLE 96 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2-chloro-pyrimidin-4-ylamine (prepared from 2,4-chloro-pyrimidin-4-ylamine by hydrogenation in ethanol over 5% palladium on carbon, 1 atm of hydrogen): MS (m+1)=376.5.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2-chloro-pyrimidin-4-ylamine | ClC1=NC=CC(=N1)N | C4H4ClN3
product | N2-[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyrimidine-2,4-diamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CNC1=NC=CC(=N1)N | C18H25N5O2S
